US06956141B1
529 g of a potassium isobutoxide/xylene suspension (4.5 mol/kg), 127 g of acetone and 29 g of acetylene gas were metered continuously and synchronously over a period of one hour into a reaction mixing pump having a nominal capacity of 20 ml. The reaction mixture which was mixed very well in the reaction pump was conveyed via a pump circuit in which a heat exchanger was located. The reaction temperature in the pump was 35° C., that upstream of the heat exchanger was 32° C. and that downstream of the heat exchanger was 28° C. The volume flow in the pumped circuit was in the range from 80 to 100 l/h. From the pump circuit, an after-reaction section led to a hydrolysis vessel where the reaction mixture was hydrolyzed by means of 500 g/h of water. After the organic phase had been separated off and neutralized by means of 22.8 g of phosphoric acid, dimethylhexynediol was obtained at a conversion of 98% and in a yield of 90%. Methylbutynol in a yield of 2.3% was identified as by-product.

reactant | potassium isobutoxide xylene | 529 g | CC(C)C[O-].[K+].C=1(C(=CC=CC1)C)C
reactant | acetone | 127 g | CC(=O)C | C3H6O
reactant | acetylene | 29 g | C#C | C2H2
solvent | water | O | H2O
product | dimethylhexynediol | yield of 90% | CC(C#CC(O)(O)C)CC | C8H14O2
